US09029549B2
2-(1-{[3,5-Bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylic acid (III-1)
Ethyl 2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate (IV-1, 13.3 g) is dissolved in tetrahydrofuran (80 ml). LiOH monohydrate (1.86 g) dissolved in water (20 ml) is then added. After 3 hours, water is added, the pH is adjusted to 2-3 with dilute hydrochloric acid (1M), the mixture is then extracted with ethyl acetate and the combined organic phases are dried with sodium sulfate. The solid is filtered off and the solvent is removed by distillation. This gives 2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylic acid (11.7 g, 94%).

reactant | Ethyl 2-(1-{[3,5-bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylate | 13.3 g | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)OCC)F | C18H20F4N4O3S
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
product | 2-(1-{[3,5-Bis(difluoromethyl)-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-1,3-thiazole-4-carboxylic acid | FC(C1=NN(C(=C1)C(F)F)CC(=O)N1CCC(CC1)C=1SC=C(N1)C(=O)O)F | C16H16F4N4O3S
